US07615550B2
1-(4-{4-[1-(2-Methoxy-ethyl)-piperidin-4-yloxy]-benzyl}-piperazin-1-yl)-1-phenyl-methanone (E34)
1-Phenyl-1-{4-[4-(piperidin-4-yloxy)-benzyl]-piperazin-1-yl}-methanone (E32) (150 mg, 0.40 mmol) was dissolved in 2-butanone and treated with 1-chloro-2-methoxy-ethane (0.08 ml, 0.80 mmol), potassium carbonate (132 mg, 0.96 mmol) and potassium iodide (159 mg, 0.96 mmol). The reaction mixture was heated under reflux for 24 hours. The mixture was allowed to cool to room temperature, acidified by the addition of glacial acetic acid and passed down an SCX ion exchange column (2 g) eluting with methanol followed by ammonia/methanol (1:9). The basic fractions were combined and concentrated in vacuo to afford the title compound (76 mg). MS(ES+) m/e 438 [M+H]+.

reactant | 1-Phenyl-1-{4-[4-(piperidin-4-yloxy)-benzyl]-piperazin-1-yl}-methanone | 0.40 mmol, 150 mg | C1(=CC=CC=C1)C(=O)N1CCN(CC1)CC1=CC=C(C=C1)OC1CCNCC1 | C23H29N3O2
reactant | 1-chloro-2-methoxy-ethane | 0.80 mmol, 0.08 ml | ClCCOC | C3H7ClO
reactant | potassium carbonate | 0.96 mmol, 132 mg | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.96 mmol, 159 mg | [I-].[K+]
solvent | 2-butanone | CC(CC)=O | C4H8O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-(4-{4-[1-(2-Methoxy-ethyl)-piperidin-4-yloxy]-benzyl}-piperazin-1-yl)-1-phenyl-methanone | 76 mg | COCCN1CCC(CC1)OC1=CC=C(CN2CCN(CC2)C(=O)C2=CC=CC=C2)C=C1 | C26H35N3O3
